US09169246B2
Step 19.2. 7-[2-(piperidin-1-yl)pyrid-3-yl]-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one hydrochloride
The product is obtained according to the procedure described in Step 1.7. starting with 7-[2-(piperidin-1-yl)pyrid-3-yl]-1-(tetrahydro-2H-pyran-2-yl)-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one and 7-[2-(piperidin-1-yl)pyrid-3-yl]-2-(tetrahydro-2H-pyran-2-yl)-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one, in the form of a white powder (hydrochloride, 1.3 H2O; yield 86%).

reactant | 7-[2-(piperidin-1-yl)pyrid-3-yl]-1-(tetrahydro-2H-pyran-2-yl)-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | N1(CCCCC1)C1=NC=CC=C1C=1C=CC=2C3=C(C(N(C2C1)CC(F)(F)F)=O)C=NN3C3OCCCC3 | C27H28F3N5O2
reactant | 7-[2-(piperidin-1-yl)pyrid-3-yl]-2-(tetrahydro-2H-pyran-2-yl)-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | N1(CCCCC1)C1=NC=CC=C1C=1C=CC=2C3=C(C(N(C2C1)CC(F)(F)F)=O)CN(N3)C3OCCCC3 | C27H30F3N5O2
reactant | hydrochloride | Cl | ClH
solvent | H2O | O | H2O
product | 7-[2-(piperidin-1-yl)pyrid-3-yl]-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one hydrochloride | yield 86% | Cl.N1(CCCCC1)C1=NC=CC=C1C=1C=CC=2C3=C(C(N(C2C1)CC(F)(F)F)=O)C=NN3 | InChI=1S/C22H20F3N5O.ClH/c23-22(24,25)13-30-18-11-14(6-7-16(18)19-17(21(30)31)12-27-28-19)15-5-4-8-26-20(15)29-9-2-1-3-10-29;/h4-8,11-12H,1-3,9-10,13H2,(H,27,28);1H
